US08198269B2
(1) Synthesis of t-butyl 5-methylpyrazine-2-carboxylate
A boron trifluoride-diethyl ether complex (91.7 IL) was added dropwise to a suspension of 2-methylpyrazine-5-carboxylic acid (1 g) and tert-butyl 2,2,2-trichloroacetimidate (4.75 g) in tetrahydrofuran (20 mL) under ice-cooling. The reaction solution was heated to room temperature and stirred for two hours. A saturated sodium chloride solution and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate, and the insoluble matter was separated by filtration. The filtrate was concentrated and purified by silica gel column chromatography to obtain the title compound (1.4 g).

reactant | 2-methylpyrazine-5-carboxylic acid | 1 g | CC1=NC=C(N=C1)C(=O)O | C6H6N2O2
reactant | tert-butyl 2,2,2-trichloroacetimidate | 4.75 g | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
reactant | sodium chloride | [Cl-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | t-butyl 5-methylpyrazine-2-carboxylate | 1.4 g | CC=1N=CC(=NC1)C(=O)OC(C)(C)C | C10H14N2O2
